### ISSUE TITLE
remove `Classical.arbitrary` & (re)move introduction of  `Nonempty`

### ISSUE THREAD

**Issue by TentativeConvert** [hhu-adam/Robo#64]
- Introduce `Nonempty` with some easy example before the final level of Quantus.
- Explain how to use `Nonempty` with `obtain`, as already explained in the documentation of `Nonempty`.
- Remove `Classical.arbitrary` from the final level of Quantus (and thus from the whole Game).

As an alternative to the first two points, remove `Nonempty` altogether by spelling out the condition as an existence statement.

**Comment by TentativeConvert** [comment]
fixed by 4c35653114765c711b74cc1279e6bc482cc0a00c

**Comment by TentativeConvert** [comment]
For the record:
```lean
import Mathlib

variable (A : Type) (hne : Nonempty A) (hexists : (∃ a : A, true))

example : ∃ a : A , true := by
  obtain ⟨a,ha⟩ := hexists
  use a

example : ∃ a : A , true := by
  choose a ha using hexists
  use a

example : ∃ a : A , true := by
  --choose a ha using hne fails
  obtain ⟨a⟩ := hne
  use a
````
